US06593344B1
N-[4-(4,4-Diphenyl-piperidin-1-yl)-butyl]-3-pyridin-3-yl-acrylamide (Substance 82)
2.4 g (16.0 mmol) 3-(3-pyridyl)-acrylic acid and 2.9 g (17.6 mmol) CDI are heated under reflux in 150 ml absolute THF under moisture exclusion. After an hour, this is cooled to RT and 6.0 g (19.2 mmol) 4-(4,4-diphenyl-piperidin-1-yl)-butylamine, dissolved in 25 ml absolute THF, are added dropwise. After addition, this is stirred for a further three hours at RT and left to stand overnight. The mixture is poured into 200 ml water and extracted three times each with 100 ml acetic acid ethyl ester by shaking. The combined organic phases are washed with saturated NaCl-solution, dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically pre-purified over silica gel with CHCl3/CH3OH (95/5). After removal of the solvent, crystallization occurs from 130 ml isopropanol: Colorless crystals with MP. 207-208° C.: Yield 2.0 g (28%).

reactant | 3-(3-pyridyl)-acrylic acid | 16.0 mmol, 2.4 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | CDI | 17.6 mmol, 2.9 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-(4,4-diphenyl-piperidin-1-yl)-butylamine | 19.2 mmol, 6.0 g | C1(=CC=CC=C1)C1(CCN(CC1)CCCCN)C1=CC=CC=C1 | C21H28N2
reactant | water | 200 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-[4-(4,4-Diphenyl-piperidin-1-yl)-butyl]-3-pyridin-3-yl-acrylamide | C1(=CC=CC=C1)C1(CCN(CC1)CCCCNC(C=CC=1C=NC=CC1)=O)C1=CC=CC=C1 | C29H33N3O
